* Z:\mnt\design.r\spice\examples\1939.asc
XU1 IN IN N010 N006 N008 N005 N003 N004 N011 N009 N001 N002 0 LT1939
R1 OUT1 N004 42.2K
R2 N004 0 8.06K
R3 N009 OUT2 1K
R4 N011 OUT2 24.9K
R5 N011 0 8.06K
L1 N002 OUT1 6.8µ
C1 N001 N002 .47µ
V1 IN 0 12
R6 N005 0 53.6K
R7 N007 0 40.2K
C2 N010 0 .001µ
C3 N008 N007 330p
D1 0 N002 1N5818
C4 OUT1 0 22µ
Q1 OUT1 N009 OUT2 0 FZT849
C5 OUT2 0 22µ
R8 N006 OUT1 100K
Rload1 OUT1 0 5
Rload2 OUT2 0 5
R9 IN N003 100K
D2 OUT1 N001 1N4148
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 500u startup
.lib LT1939.sub
.backanno
.end
